US09403849B2
b) 9-Bromo-10-(4-methylnaphth-1-yl)anthracene
A mixture of 18.0 ml (352 mmol) of bromine in 100 ml of dichloromethane is added dropwise with vigorous stirring to a solution of 102.0 g (320 mmol) of 9-(4-methylnaphth-1-yl)anthracene in 2000 ml of dichloromethane at −5° C., and the mixture is stirred at room temperature for 12 h. The suspension is subsequently diluted with 1000 ml of ethanol. The precipitated solid is filtered off with suction, washed with 500 ml of a mixture of water and ethanol (1:1, v:v) and three times with 200 ml of ethanol. After washing twice with 1000 ml of boiling ethanol each time, the solid is dried under reduced pressure. Yield: 108.0 g (84.9% of theory), about 97% according to 1H-NMR.

reactant | bromine | 352 mmol, 18.0 ml | BrBr | Br2
reactant | 9-(4-methylnaphth-1-yl)anthracene | 320 mmol, 102.0 g | CC1=CC=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C25H18
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2000 ml | ClCCl | CH2Cl2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 9-Bromo-10-(4-methylnaphth-1-yl)anthracene | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C2=CC=CC=C12)C | C25H17Br
